US07504410B2
19g) Phenylmethyl [3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]pyrimidin-4-yl]amino]propyl]carbamate
To a solution of phenylmethyl [3-[[2-[(3-aminophenyl)amino]-5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]pyrimidin-4-yl]amino]propyl]carbamate (225 mg) in acetonitrile (5 ml) ethyl isocyanate (33 μl) was added and the mixture stirred for 18 h at room temperature. Then 5 drops of ammonia solution (25%) were added and the precipitated title compound isolated by filtration (158 mg).

reactant | phenylmethyl [3-[[2-[(3-aminophenyl)amino]-5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]pyrimidin-4-yl]amino]propyl]carbamate | 225 mg | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCCNC(OCC1=CC=CC=C1)=O)CO[Si](C)(C)C(C)(C)C | C28H40N6O3Si
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | ammonia | 5 drops | N | H3N
product | Phenylmethyl [3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]pyrimidin-4-yl]amino]propyl]carbamate | CC(C)(C)[Si](OCC=1C(=NC(=NC1)NC1=CC(=CC=C1)NC(=O)NCC)NCCCNC(OCC1=CC=CC=C1)=O)(C)C | C31H45N7O4Si
